US09216182B2
b) 1-(5-carbamoylpyridin-2-yl)-piperidin-4-yl 4-nitrophenyl carbonate
To the solution of 6-(4-hydroxypiperidin-1-yl)nicotinamide (3.32 g, 15 mmol) in pyridine (10 mL) was added DIPEA (3.87 g, 30.0 mmol) and 4-nitrophenyl carbonochloridate (6.03 g, 30 mmol). The resulting mixture was stirred at 30° C. for 2 h before it was concentrated under reduced pressure to afford the crude product. The residue was further purified by silica gel chromatography (DCM: MeOH=100:0 to 20:1) to afford the title compound (3 g, 50%) as a white solid. [LCMS RtB=1.79 min, [M+H]+=387.0].

reactant | 6-(4-hydroxypiperidin-1-yl)nicotinamide | 15 mmol, 3.32 g | OC1CCN(CC1)C1=NC=C(C(=O)N)C=C1 | C11H15N3O2
reactant | DIPEA | 30.0 mmol, 3.87 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-nitrophenyl carbonochloridate | 30 mmol, 6.03 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 1-(5-carbamoylpyridin-2-yl)-piperidin-4-yl 4-nitrophenyl carbonate | 3 g, 50% | C(OC1CCN(CC1)C1=NC=C(C=C1)C(N)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H18N4O6
